US04697012
To a solution of 2-benzyl-4-(4-pyridyl)thiazole (4.00 g, 0.016 mol) and tetramethylethylenediamine (2.5 mL) in dry tetrahydrofuran (35 mL) at -78° C. under nitrogen atmosphere was added dropwise n-butyl lithium (1.6M in hexane, 11.4 mL). The resulting dark mixture was allowed to stir at -78° C. for 15 minutes, warmed to 0° C. for 2 hours, then cooled to -78° C. Ethyl formate (1.47 mL) was added dropwise and the mixture allowed to stir at -78° C. for 30 minutes then at 0° C. for one hour. The reaction mixture was quenched with methanol, concentrated, and chromatographed over silica gel. Recrystallization from hexane/ethyl acetate afforded 2-phenyl-2-[4-(4-pyridyl)-2-thiazolyl]acetaldehyde (1.76 g, 39%). mp. 163°-164° C.

reactant | 2-benzyl-4-(4-pyridyl)thiazole | 0.016 mol, 4.00 g | C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC=NC=C1 | C15H12N2S
reactant | tetramethylethylenediamine | 2.5 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 1.6M, 11.4 mL | C(CCC)[Li]
reactant | Ethyl formate | 1.47 mL | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 2-phenyl-2-[4-(4-pyridyl)-2-thiazolyl]acetaldehyde | 1.76 g, 39% | C1(=CC=CC=C1)C(C=O)C=1SC=C(N1)C1=CC=NC=C1 | C16H12N2OS
